US03931173
2,10-Dichloro-N-(3-pyridylmethyl)-12H-dibenzo[d,g][1,3]dioxocin-6-carboxamide
To 15 g of 2,10-dichloro-12H-dibenzo[d,g][1,3]dioxocin-6-carboxylic acid was added 75 ml of thionyl chloride, and the heterogenous mixture was refluxed with occasional stirring until it became homogenous. The mixture was refluxed for an additional 2 hours after which the thionyl chloride was distilled off under reduced pressure affording a solid residue which was dissolved in 300 ml of dry benzene by warming on a steam bath. The benzene was distilled off under reduced pressure affording a white crystalline residue to which was added 500 ml of dry benzene. The mixture was stirred at room temperature until homogenous then 35 g of 3-aminomethylpyridine was added. After standing at room temperature for 2 hours the mixture was heated to reflux for an additional 3 hours, cooled to room temperature, poured into ice water and separated. Methanol was added to aid the solubility of the product in the organic layer. The organic layer was washed with water and distilled under reduced pressure resulting in a residue which was dried and recrystallized twice from methanol-acetone (1:1) to give the desired product, M.P. 225°-226°C.

reactant | 2,10-dichloro-12H-dibenzo[d,g][1,3]dioxocin-6-carboxylic acid | 15 g | ClC1=CC2=C(OC(OC3=C(C2)C=C(C=C3)Cl)C(=O)O)C=C1 | C15H10Cl2O4
reactant | thionyl chloride | 75 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-aminomethylpyridine | 35 g | NCC=1C=NC=CC1 | C6H8N2
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | 2,10-Dichloro-N-(3-pyridylmethyl)-12H-dibenzo[d,g][1,3]dioxocin-6-carboxamide | ClC1=CC2=C(OC(OC3=C(C2)C=C(C=C3)Cl)C(=O)NCC=3C=NC=CC3)C=C1 | C21H16Cl2N2O3
